US07435837B2
Treatment of (±)-1-{4-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methanamine (2.21 g, 6.7 mmol) with diisopropylethylamine (1.3 g, 10.05 mmol) followed by benzyl chloroformate (1.25 g, 7.37 mmol) generally according to the procedure described for Intermediate 12 provided 2.6 g (91%) of (±)-benzyl({4-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methyl)carbamate as a colorless oil. Anal. calcd. for C24H20F3NO3: C, 67.44; H, 4.72; N, 3.28. Found: C, 67.5; H, 4.7; N, 3.13. Chiral HPLC separation of (±)-benzyl ({4-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methyl)carbamate (Chiralcel OJ, ethanol:hexane 1:1) provided two fractions. Fraction 1 (Rt=5.701 min, Chiralcel OJ, ethanol:hexane 1:1); Fraction 2 (Rt=7.122 min, Chiralcel OJ, ethanol:hexane 1:1).

reactant | (±)-1-{4-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methanamine | 6.7 mmol, 2.21 g | FC(C1=C(C=CC=C1)C1=CC=CC2=C1CC(O2)CN)(F)F | C16H14F3NO
reactant | diisopropylethylamine | 10.05 mmol, 1.3 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 7.37 mmol, 1.25 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl({4-[2-(trifluoromethyl)phenyl]-2,3-dihydro-1-benzofuran-2-yl}methyl)carbamate | 2.6 g, 91% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C(=CC=C2)C2=C(C=CC=C2)C(F)(F)F)=O | C24H20F3NO3
